US08076491B2
To the mixture of the HCl salt of methyl 4-(aminomethyl)cyclohexanecarboxylate (208 mg, 1 mmol) in 5 mL of dichloromethane, at 0° C. in an ice bath, were added triethylamine (360 uL, 2.58 mmol) and 4-methylbenzene-1-sulfonyl chloride (190 mg, 1 mmol). The ice bath was allowed to warm slowly to ambient temperature and stirred overnight. The solvent was removed in vacuo. The residue was re-dissolved in ethyl acetate (20 mL), washed with 1N HCl (5 mL), water (5 mL) and brine (5 mL), then dried over magnesium sulfate and concentrated. This crude product (162 mg, 0.5 mmol) was redissolved in acetone (5 mL) and treated with potassium carbonate (110 mg, 0.79 mmol) and (4-fluorophenyl)methanamine (1.76 mL, 14.08 mmol). The mixture was stirred in a pressure vessel at 80° C. overnight, then cooled and the inorganic salts were filtered off. Acetone was removed in vacuo and the residue was re-dissolved in ethyl acetate and washed with water followed by brine. The organic layer was dried over magnesium sulfate and concentrated. The crude product (162 mg, 0.4 mmol) was dissolved in MeOH/THF (1:1.5, 10 mL) and treated with aqueous NaOH (190N, 400 uL). The mixture was stirred at 100° C. for 20 min in a microwave, and then MeOH and THF were removed in vacuo. The residue was acidified with 6 N aq HCl to a pH of ˜3 and extracted with EtOAc; the combined organic layers were washed with water and brine, dried over Na2SO4 and concentrated. The crude product was purified by recrystallization from EtOH to afford pure 4-((N-benzyl-4-methylphenylsulfonamido)methyl)cyclohexanecarboxylic acid as a white solid (120 mg, 74%). MS (M+H, 402); 1H NMR (400 MHz, DMSO-d6): δ, ppm: 0.68 (m, 2H)), 0.91 (m, 2H), 1.06 (br, s, 1H), 1.50 (d, 2H), 1.72 (d, 2H), 2.0 (1H), 2.41 (s, 3H), 2.86 (m, 2H), 4.21 (s, 2H), 7.30 (m, 5H), 7.43 (m, 2H), 7.73 (m, 2H), 11.97 (br, s, 1H).

reactant | HCl | Cl | ClH
reactant | methyl 4-(aminomethyl)cyclohexanecarboxylate | 1 mmol, 208 mg | NCC1CCC(CC1)C(=O)OC | C9H17NO2
reactant | triethylamine | 2.58 mmol, 360 uL | C(C)N(CC)CC | C6H15N
reactant | 4-methylbenzene-1-sulfonyl chloride | 1 mmol, 190 mg | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | potassium carbonate | 0.79 mmol, 110 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (4-fluorophenyl)methanamine | 14.08 mmol, 1.76 mL | FC1=CC=C(C=C1)CN | C7H8FN
reactant | NaOH | 190N, 400 uL | [OH-].[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | acetone | 5 mL | CC(=O)C | C3H6O
solvent | MeOH THF | 10 mL | CO.C1CCOC1
product | 4-((N-benzyl-4-methylphenylsulfonamido)methyl)cyclohexanecarboxylic acid | 120 mg, 74% | C(C1=CC=CC=C1)N(S(=O)(=O)C1=CC=C(C=C1)C)CC1CCC(CC1)C(=O)O | C22H27NO4S
